US07214673B2
10-((S)-3-[2-(2-Chloro-phenyl)-ethyl]-piperazin-l -yl)-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene
Combine 2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride (607.1 mg, 2.28 mmol), (S)-2-[2-(2-chloro-phenyl)-ethyl]-piperazine (1.03 g, 4.57 mmol), N,N-diisopropylethylamine (295.3 mg, 2.28 mmol), DMSO (1.0 ml), and toluene (4.0 ml). Stir and heat the mixture at 105° C. After 64 hours, cool the mixture to ambient temperature and then dilute it with ethyl acetate and water. Remove the organic layer and wash it with 1N NaOH and brine. Dry (sodium sulfate) and concentrate the organic layer to residue. Purify the residue on silica gel using dichloromethane/methanol (95:5) to give 482.4 mg (48%) of the title compound as a brown foam: mp 72°, dec; mass spectrum (ion spray): m/z=437.3.

reactant | 2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride | 2.28 mmol, 607.1 mg | Cl.CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N
reactant | (S)-2-[2-(2-chloro-phenyl)-ethyl]-piperazine | 4.57 mmol, 1.03 g | ClC1=C(C=CC=C1)CC[C@@H]1NCCNC1 | C12H17ClN2
reactant | N,N-diisopropylethylamine | 2.28 mmol, 295.3 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | DMSO | 1.0 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | toluene | 4.0 ml | C1(=CC=CC=C1)C | C7H8
product | 10-((S)-3-[2-(2-Chloro-phenyl)-ethyl]-piperazin-l -yl)-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene | 482.4 mg, 48% | ClC1=C(C=CC=C1)CC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2 | C24H25ClN4S
